US06849749B2
5-(4-morpholylcarbonyl)phthalid
A solution of 5-chlorocarbonylphthalid (39 g, 0.2 mole) in THF (400 ml) is added to a solution of morpholine (22 g. 0.25 mole) and triethylamine (26 g, 0.25 mole) in THF (200 ml) at 0° C. The mixture is stirred for 1 hour and is allowed to warm to room temperature. The reaction mixture is then poured into ice water ( 500 ml). THF is evaporated off in vacuo and the pH of the solution is adjusted to pH=2. The solution is cooled to 5° C. and the precipitated crystals are filtred off and washed with water (100 ml).

reactant | 5-chlorocarbonylphthalid | 0.2 mole, 39 g | ClC(=O)C=1C=C2COC(=O)C2=CC1 | C9H5ClO3
reactant | morpholine | 0.25 mole, 22 g | N1CCOCC1 | C4H9NO
reactant | triethylamine | 0.25 mole, 26 g | C(C)N(CC)CC | C6H15N
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 5-(4-morpholylcarbonyl)phthalid | N1(CCOCC1)C(=O)C=1C=C2COC(=O)C2=CC1 | C13H13NO4
